US08912188B2
Methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate (300 mg, 0.95 mmol) was stirred in o-toluidine (10 mL) at 145° C. for 3 days in an oil bath. The reaction mixture was concentrated in vacuo to give a residue, which was purified by a silica gel column chromatography (1% ethyl acetate in petroleum ether) to afford methyl 3-(o-toluidino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate as a light yellow solid (145 mg, 37%).

reactant | Methyl 3-chloro-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.95 mmol, 300 mg | ClC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F | C16H10ClFN2O2
reactant | o-toluidine | 10 mL | NC=1C(=CC=CC1)C | C7H9N
product | methyl 3-(o-toluidino)-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 145 mg, 37% | C=1(C(=CC=CC1)NC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=C(C=C1)F)C | C23H18FN3O2
